US07585885B2
6-Fluoro-5-(methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid
Dissolve the 6-fluoro-5-(methanesulfonyl-methyl-amino)-N-methyl-N-propyl-isophthalamic acid ethyl ester (110 mg, 0.30 mmol) in THF (7.5 mL). Add 1 N sodium hydroxide solution (1.48 mL, 1.48 mmol) and stir the resulting biphasic mixture vigorously for 4 h. Acidify with 1 N HCl (1.55 mL, 1.55 mmol) and concentrate the solution to a volume of about 3 mL. Extract the solution with diethyl ether (2×20 μL). Combine the organic layers, dry (magnesium sulfate) and concentrate to give the title compound as a solid (95.2 mg, 93%).

reactant | 6-fluoro-5-(methanesulfonyl-methyl-amino)-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.30 mmol, 110 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1F)N(C)S(=O)(=O)C)=O | C16H23FN2O5S
reactant | sodium hydroxide | 1.48 mmol, 1 N, 1.48 mL | [OH-].[Na+]
reactant | HCl | 1.55 mmol, 1 N, 1.55 mL | Cl | ClH
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 6-Fluoro-5-(methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid | 95.2 mg, 93% | FC1=C(C=C(C=C1C(=O)O)C(=O)N(CCC)C)N(C)S(=O)(=O)C | C14H19FN2O5S
